US08293715B2
Synthesis of 3-[1-hydroxy-1-(2-methylphenyl)ethyl]phenol
By using 3′-hydroxyacetophenone (200 mg) and a 1 M solution of o-tolylmagnesium chloride in tetrahydrofuran (4.4 ml) as starting materials, the title compound (119.3 mg) was obtained in the same manner as that of Reference Example 69.

reactant | 3′-hydroxyacetophenone | 200 mg | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | o-tolylmagnesium chloride | C1(=C(C=CC=C1)[Mg]Cl)C
solvent | tetrahydrofuran | 4.4 ml | O1CCCC1 | C4H8O
product | 3-[1-hydroxy-1-(2-methylphenyl)ethyl]phenol | 119.3 mg | OC(C)(C1=C(C=CC=C1)C)C=1C=C(C=CC1)O | C15H16O2
